US07820821B2
2-Ethyl-1-isothiocyanatobenzene (3 mmol) and methyl 3,4-diaminobenzoate (3 mmol) were reacted, following general procedure B, to yield 2-(2-ethylphenylamino)-3H-benzimidazole-5-carboxylic acid methyl ester, which was purified by silica gel chromatography using DCM/ethyl acetate as eluent.

reactant | 2-Ethyl-1-isothiocyanatobenzene | 3 mmol | C(C)C1=C(C=CC=C1)N=C=S | C9H9NS
reactant | methyl 3,4-diaminobenzoate | 3 mmol | NC=1C=C(C(=O)OC)C=CC1N | C8H10N2O2
product | 2-(2-ethylphenylamino)-3H-benzimidazole-5-carboxylic acid methyl ester | COC(=O)C1=CC2=C(N=C(N2)NC2=C(C=CC=C2)CC)C=C1 | C17H17N3O2
